US08420863B2
Coupling of 3 bromobenzaldehyde with ethyl crotonate following the method used in Example 26 gave ethyl 3-(3-formylphenyl)but-2-enoate as a light yellow oil Yield (0.547, 23%): 1H NMR (300 MHz, CDCl3) δ 10.05 (s, 1H), 7.99 (t, J=1.6 Hz, 1H), 7.87 (dt, J=7.6, 1.3 Hz, 1H), 7.74 (m, 1H), 7.56 (t, J=7.6 Hz, 1H), 6.19 (q, J=1.2 Hz, 1H), 4.23 (q, J=7.2 Hz, 2H), 2.61 (d, J=1.2 Hz, 3H), 1.33 (t, J=7.2 Hz, 3H).

reactant | bromobenzaldehyde | BrC1=C(C=O)C=CC=C1 | C7H5BrO
reactant | ethyl crotonate | C(\C=C\C)(=O)OCC | C6H10O2
product | ethyl 3-(3-formylphenyl)but-2-enoate | C(=O)C=1C=C(C=CC1)C(=CC(=O)OCC)C | C13H14O3
